US07700593B2
Step 2: 3-(3-(2-Chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-7-yl)-4-methylbenzohydrazide
A solution of N′-boc-3-(3-(2-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-7-yl)-4-methylbenzohydrazide (300 mg, 0.63 mmol) in 3.0 mL of DCM at RT was treated with 2.0 mL of TFA. After 1.5 h of stirring, the volatiles were evaporated. The residue was dissolved in DCM, washed with 1 N NaOH followed by brine. The DCM layer was dried and concentrated to afford the title compound as a white amorphous solid. MS (ESI, pos. ion) m/z: 378 (M+1).

reactant | N′-boc-3-(3-(2-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-7-yl)-4-methylbenzohydrazide | 0.63 mmol, 300 mg | C(=O)(OC(C)(C)C)NNC(C1=CC(=C(C=C1)C)C1=CC=2N(C=C1)C(=NN2)C2=C(C=CC=C2)Cl)=O | C25H24ClN5O3
reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3.0 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-(2-Chlorophenyl)-[1,2,4]triazolo[4,3-a]pyridin-7-yl)-4-methylbenzohydrazide | ClC1=C(C=CC=C1)C1=NN=C2N1C=CC(=C2)C=2C=C(C(=O)NN)C=CC2C | C20H16ClN5O
